US05026939
o-Xylene and 1,2-dichloroethane were reacted in the presence of anhydrous AlC13 catalyst to obtain 1,2-di(dimethylphenyl)ethane (bromine number: 0.1) of 136 to 148° C. in distillation temperature at 3 to 5 mmHg. This was cracked in the like manner as in Example 1.

reactant | o-Xylene | CC=1C=CC=CC1C | C8H10
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 1,2-di(dimethylphenyl)ethane | CC=1C(=C(C=CC1)CCC1=C(C(=CC=C1)C)C)C | C18H22
